US06576643B2
b) 2-Chloro-4-methylpyridine-N-oxide hydrochloride
A mixture of 2-chloro-4-methylpyridine (10.0 g, 78.3 mmole) and 34% peracetic acid (76.05 g, 91.0 mmole) in glacial AcOH (10 mL) was heated at 70° C. for 3 hr. The reaction mixture was cooled, conc. HCl (35 mL) was added, and the mixture was concentrated on the rotavap. Recrystallization from n-butanol followed by trituration with ether gave the title compound (7.16 g, 51%) as a white solid: MS (ES) m/e 143.9 (M+H)+.

reactant | 2-chloro-4-methylpyridine | 78.3 mmole, 10.0 g | ClC1=NC=CC(=C1)C | C6H6ClN
reactant | peracetic acid | 91.0 mmole, 76.05 g | C(C)(=O)OO | C2H4O3
reactant | HCl | 35 mL | Cl | ClH
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 2-Chloro-4-methylpyridine-N-oxide hydrochloride | 7.16 g, 51% | Cl.ClC1=[N+](C=CC(=C1)C)[O-] | InChI=1S/C6H6ClNO.ClH/c1-5-2-3-8(9)6(7)4-5;/h2-4H,1H3;1H
